Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Bactrim / Augmentin
 
Attending: ___.
 
Chief Complaint:
Episodic diplopia
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Pt is a ___ yr M w/ hx of HTN, HLD, and COPD/emphysema who
presents for acute onset of diplopia and dizziness. LKW at 1530
when pt was at work, with acute onset of lightheadedness 
followed
by horizontal diplopia, reportedly worse with far vision. Within
a few minutes pt also developed L frontal headache, pounding in
quality, severe, and non-radiating. Due to these sx pt was
brought by co-worker to OSH for further evaluation. On arrival 
to
OSH seen to have BP up to 190 and received Esmolol gtt and
Labetalol 20mg IV x 2. He also received Ativan 1mg IV. CT/CTA 
was
performed with pt brought to ___ ED for further evaluation.

At time of interview, pt continued to complain of intermittent
diplopia, binocular in nature, but no pain with eye movement,
blurry vision, vertiginous symptoms, hearing change, dysarthria,
dysphagia, weakness, numbness, or other  focal neurologic
deficit. Indicated that headache has improved to being mild in
severity and waxing and waning. no associated f/c, n/v, photo- 
or
phonophobia, or parasthesias. Headache reported to worsen when
moving his head side to side and improved when lying still.
Denies neck pain/stiffness, hx of similar events in the past or
significant hx of headaches. Endorses longstanding hx of smoking
but has recently been trying to quit.
 
Past Medical History:
HTN-not on medication, states SBP usually in 130s
HLD
COPD/Emphysema
B/l knee replacement in ___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAMINATION

Vitals:  HR: 64   BP: 148/99   RR: 19   SaO2: 98% RA
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to person, place, and
date. Able to relate history without difficulty. Attentive, able
to name ___ backward without difficulty (refusing to name ___.
Speech is fluent with full sentences, intact repetition, and
intact verbal comprehension. Naming intact.  No paraphasias.  No
dysarthria. Normal prosody. Able to register 3 objects and 
recall
___ at 5 minutes. No apraxia. No evidence of hemineglect. No
left-right confusion. Able to follow both midline and
appendicular commands.

- Cranial Nerves: Pupils 4->3mm on L, 3->2mm on R, both briskly
reactive. VF full to number counting. EOM appear intact w/
endorsement of vertical diplopia on upgaze, top image removed w/
covering L eye, although not present on repeat exam. Also noted
horizontal diplopia at times during exam but unable to elicit
during specified testing. Decreased L adduction with
accommodation. Few beats of R beating nystagmus on R gaze,
extinguished after a few seconds. V1-V3 without deficits to 
light
touch or pinprick bilaterally. No facial movement asymmetry.
Hearing intact to finger rub bilaterally.  Palate elevation
symmetric. SCM/Trapezius strength ___ bilaterally. Tongue
midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [Gastroc]
 L  1     1      1       0       0
 R  1     1      1       0       0  

Plantar response WD bilaterally 

- Sensory: No deficits to light touch, pin, or proprioception
bilaterally.  No extinction to DSS.

- Coordination: Mild dysmetria w/ FNF on R, difficult performing
HKS due to knee replacements. Some decreased rhythm w/ finger
over crease R>L, mirror testing relatively intact. Slowed speed
but intact cadence with rapid alternating movements R>L.

- Gait: Sway with standing with feet closed, unwilling to
ambulate. 

DISCHARGE EXAMINATION

Vitals: T: 98.4 HR: 56 BP: 115/77 RR: 20 SpO2: 96% RA
General: NAD
HEENT: NCAT, poor dentition
___: warm, well-perfused
Pulmonary: no tachypnea or increased WOB
Extremities: symmetric, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented to person, place, and 
date. Able to relate history without difficulty. No dysarthria. 
Normal prosody. Able to follow both midline and appendicular 
commands.

- Cranial Nerves: Pupils 4->2mm on L, 3.5->2mm on R, both 
briskly
reactive to light. VFFTC. EOMI without nystagmus or diplopia. 
V1-V3 without deficits to light touch. No facial movement 
asymmetry. Hearing intact to conversation.  Palate elevation 
symmetric. Tongue midline.

- Motor: No pronator drift.
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
 
- Reflexes: Deferred.

- Sensory: No deficits to light touch.

- Coordination: Deferred.

- Gait: Narrow-based and steady.
 
Pertinent Results:
HEMATOLOGY AND CHEMISTRIES

___ 06:05AM BLOOD WBC-8.2 RBC-5.31 Hgb-15.2 Hct-43.8 MCV-83 
MCH-28.6 MCHC-34.7 RDW-12.1 RDWSD-36.2 Plt ___
___ 06:05AM BLOOD Neuts-65.9 ___ Monos-8.2 Eos-0.0* 
Baso-0.7 Im ___ AbsNeut-5.40 AbsLymp-2.03 AbsMono-0.67 
AbsEos-0.00* AbsBaso-0.06
___ 06:05AM BLOOD ___ PTT-30.8 ___
___ 06:05AM BLOOD Glucose-92 UreaN-10 Creat-0.7 Na-138 
K-4.5 Cl-103 HCO3-22 AnGap-13
___ 06:05AM BLOOD ALT-19 AST-21 LD(LDH)-140 CK(CPK)-53 
AlkPhos-102 TotBili-0.7
___ 06:05AM BLOOD Triglyc-129 HDL-35* CHOL/HD-3.3 
LDLcalc-56
___ 06:05AM BLOOD Albumin-3.7 Cholest-117
___ 06:05AM BLOOD %HbA1c-5.3 eAG-105
___ 06:05AM BLOOD TSH-2.2
___ 06:05AM BLOOD CRP-1.0

IMAGING

___ 5:52 ___ MRA BRAIN W/O CONTRAST; MRA NECK W&W/O CONTRAST 

1. Long segment stenosis of the left ICA as described above with 
occlusion of the terminal/paraclinoid ICA with flow 
reconstitution in the ACA and MCA via collaterals. 
2. It is unclear whether this long segment stenosis is secondary 
to 
atherosclerotic disease with subsequent slow flow distally with 
intraluminal thrombus formation or whether it is due to 
superimposed dissection.  Short interval MRA with fat-sat to 
re-evaluate the blood products is advised.  If they remain 
unchanged, then it is most likely chronic (atherosclerotic 
disease), but if they demonstrate interval change then it is 
most likely dissection. 
3. A couple of infarcts of indeterminate age, and some which 
appear old in the left centrum semiovale in the internal 
watershed area.  The infarcts in the internal watershed area 
suggests longstanding carotid artery stenosis. 
4. Incidental finding of a 2 mm aneurysm at the anterior 
communicating artery. 
5. No significant stenosis of the right ICA by NASCET criteria. 

TTE (Complete) Done ___ at 12:10:58 ___
Late bubbles seen in the left heart at rest and with cough most 
consistent with a transpulmonary shunt. Early bubbles (<= 3 
beats) are not seen as would be expected in a PFO. Normal 
biventricular chamber size and systolic function. No 
intracardiac mass.  

 
Brief Hospital Course:
___ with history notable for HTN, HLD, and ___ transferred from 
OSH after presenting with transient horizontal diplopia, found 
at OSH to be hypertensive to SBP of 190 with CTA concerning for 
possible dissection. On presentation to ___, examination 
notable for intermittent horizontal diplopia that resolved 
during the hospitalization; a subtle left visual field deficit 
was also noted on examination that also resolved on repeat 
examination. Poor visual acuity was also noted with Mr. ___ 
current corrective lenses, for which optometry evaluation was 
recommended. CT and MR imaging revealed no new infarct or 
hemorrhage but was notable for left ICA occlusion due to 
dissection or chronic thrombus. Echocardiography notable for 
transpulmonary shunt. Given concern for dissection, 
anticoagulation initiated with enoxaparin bridge to warfarin for 
at least 2 months, with plan for CT angiogram at that time to 
reassess occlusion.

TRANSITIONAL ISSUES
1. Please arrange for follow up INR by ___ Lovenox may be 
discontinued once INR is within therapeutic range of ___ for >24 
hours.
2. Please arrange for follow-up CT angiogram of the head and 
neck in the next ___ months to reassess ICA occlusion. Please 
have the results also faxed to Dr. ___ at ___.
3. Consider outpatient ophthalmology evaluation if further 
visual field concerns are noted. We encouraged Mr. ___ to 
follow up with an optometrist for repeat evaluation for 
corrective lenses.
 
Medications on Admission:
1. Chantix (varenicline) 1 mg oral BID 
2. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID 
3. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN shortness of breath 

 
Discharge Medications:
1.  Enoxaparin Sodium 70 mg SC Q12H 
RX *enoxaparin 80 mg/0.8 mL 70 mg SC every twelve (12) hours 
Disp #*14 Syringe Refills:*0 
2.  Warfarin 5 mg PO DAILY16 Duration: 2 Months 
RX *warfarin 2.5 mg 2 (Two) tablet(s) by mouth once a day Disp 
#*28 Tablet Refills:*0 
3.  Chantix (varenicline) 1 mg oral BID  
4.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN shortness of breath  
5.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Left internal carotid artery occlusion due to dissection 
2- Diplopia
3. Anterior communicating artery aneurysm
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation of an episode of double vision. CT and MRI scans of 
your head and neck did not show signs of a new stroke, but did 
show a blockage in one of the blood vessels that supply your 
brain that was likely due to a blood vessel tear or an old clot. 
Because of the likely blood vessel tear, you were started on a 
blood thinning medication called warfarin (Coumadin). While the 
warfarin builds up in your system, you will also need to take an 
injected blood thinner (enoxaparin/Lovenox); your primary care 
provider ___ also refer you to a clinic that will check your 
blood and adjust your blood thinners accordingly. You will also 
need to have a follow-up CT scan of the head and neck in about 
two months' time to reassess your blocked vessel.

Please take your other medications as prescribed. Please also 
continue to work with your primary care provider to quit 
smoking.

Please follow up with your primary care provider within the next 
___ weeks; you will be contacted for an appointment. Please also 
follow up with Neurology at the appointment listed below.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___